Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
nifedipine / Amitriptyline / Prilosec OTC / Terazosin / 
Amlodipine / Atenolol / Oxybutynin / Hydrochlorothiazide / 
spironolactone
 
Attending: ___.
 
Chief Complaint:
"feeling unwell", Admitted for bradycardia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ ___ speaking HTN, CAD s/p MI, HL, and vascular cognitive 
impairment, hx of afib on pradaxa presenting with feeling 
'unwell' x2 days; states that she had brief chest discomfort 
yesterday which passed spontaneously. Headache which was 
baseline now gone. Vomited in triage, now denies nausea. No abd 
pain. No bloody stools. No vision changes. No shortness of 
breath. No urinary sx.  

Her spironolactone which was recently added by her PCP to treat 
her symptoms of right sided heart failure (pleural effusion seen 
on CXR, pedal edema) was discontinued by her PCP given her 
hyponatremia.  
It was noted previously that she has sinus bradycardia and 
probable sick sinus syndrome and therefore her CAD was not 
treated by BB. 

Prior cardiology note indicates that the patient has evidence of 

intrinsic sinus node disease.  

___ it was noted that she has aflutter/afib and after 
discussion with the patient it was decided to start her on 
dabigatran 75 mg twice daily given her age, fragility and 
slightly reduced GFR per PCP ___.  

In the ED, initial VS were: T 98.3 HR 59 BP 178/59 RR 18 Sat99% 
2L.  
EKG in the ED revealed bradycardia with afib and no ischemic 
changes. She was heme negative DRE with brown stool. Her labs 
were notable for PTT: 48.5, INR: 1.2, H/H ___, Cr 1, Na 125 
(Na 128-132 since ___ with episodic hyponatremia prior to 
___ K 5.1. Tpn < 0.01 x1. In the ED she received 1L NS. CT 
head without contrast showed no acute process per prelim report. 
CXR showed pulmonary vascular congestion with small left pleural 
effusion, decreased 
since ___ and mild cardiomegaly. UA was not 
suggestive of UTI. She was noted to be going in and out of heart 
block in high 30___ shortly after arrival while in the ED.  

Vitals prior to transfer to floor were: HR 61 BP 115/47 RR 18 
Sat 100%.  
 
On arrival to the floor, patient having difficult time 
understanding ___ phone translation due to hearing aid 
malfunction. Does not appear in distress. Complaining of RLE 
discomfort.
 
Past Medical History:
HTN
Hyperlipidemia
CAD s/p MI in ___
Headaches
Nephrolithiasis
Cataracts
Otitis media
Syncope ?sick sinus syndrome
s/p CCY 
 
Social History:
___
Family History:
Mother deceased at age ___ from breast cancer.
Father deceased at age ___. Son deceased at age ___ from heart
attack. 
 
Physical Exam:
ADMISSION
VS - Temp F 97.7, BP 139/45, HR 54 (retaken by me at ___), R28, 
O2-sat 100% RA  
GENERAL - NAD
NECK - no JVD, no carotid bruits  
LUNGS - Good air movement. R basilar crackles.
HEART - bradycardic at 44, ___ systolic murmur loudest at ___
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, 
DPs), hip pain  
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3

DISCHARGE
VS - 97.7 162/72 64 20 100RA
Tele: rate ___, recurrent pauses lasting up to 2.6 seconds
GENERAL - NAD
NECK - no JVD, no carotid bruits  
LUNGS - Good air movement. R basilar crackles.
HEART - bradycardic at ___, ___ systolic murmur loudest at ___
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, 
DPs), hip pain  
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, A&Ox3
 
Pertinent Results:
ADMISSION

___ 01:20AM BLOOD WBC-6.2 RBC-3.81* Hgb-11.3* Hct-32.9* 
MCV-86 MCH-29.7 MCHC-34.4 RDW-13.3 Plt ___
___ 01:20AM BLOOD ___ PTT-48.5* ___
___ 01:20AM BLOOD Glucose-107* UreaN-21* Creat-1.0 Na-120* 
K-5.9* Cl-89* HCO3-21* AnGap-16
___ 03:00AM BLOOD Calcium-10.0 Phos-2.6* Mg-1.7

DISCHARGE

___ 07:25AM BLOOD WBC-5.0 RBC-3.69* Hgb-10.7* Hct-32.0* 
MCV-87 MCH-28.9 MCHC-33.3 RDW-13.4 Plt ___
___ 06:34AM BLOOD Glucose-77 UreaN-26* Creat-1.0 Na-129* 
K-4.9 Cl-95* HCO3-25 AnGap-14
___ 06:34AM BLOOD Calcium-10.0 Phos-3.0 Mg-1.___RIEF HOSPTIAL COURSE AND ACTIVE ISSUE (BRADYCARDIA)
___ ___ speaking HTN, CAD s/p MI, HL, and vascular cognitive 
impairment, hx of afib on pradaxa presenting with feeling 
'unwell'. Noted to be bradycardic to ___ in ED. In-house had 
episodic bradycardia to ___. On telemetry this appeared to be 
aflutter with variable block (2:1 block all the way to 8:1 
block). Pt asymptomatic during these episodes. Per discussion 
with Dr. ___ (o/p cardiologist), patient likely has enough 
intrinsic nodal disease that diltiazem is not needed for rate 
control for flutter, so home diltiazem 180mg held. Patient 
continued to have episodes of bradycardia, but these were fewer 
in number. For blood pressure control patient started on 
amlodipine 5mg.

OTHER ACTIVE ISSUES
# Hyponatremia: Patient's sodium noted to be 120 on admission. 
Without treatment trended spontaneously up to 129 on discharge.

# HTN: Continued on lisinopril 40 mg daily. Given that diltizem 
was held, we started patient on amlodipine 5mg for lack of nodal 
blockading effects. Patient's blood pressure on discharge was 
running high in 150s-160s. 

# Lumbar radiculopathy: continued home lidocaine patch and 
amitryptiline. 
# Pleural effusion: In house did not have hypoxia. CXR showed 
decrease in size from prior in ___. 
# HL: cont pravastatin 10 mg daily  
# CAD s/p MI:  Continued Pravastatin, and ASA. No BB given given 
given bradycardia.
# GERD: stable. Cont protonix 40 daily

TRANSITIONAL ISSUES
# o/p lab draw on ___, results will be faxed to Dr. ___ 
followup at appointment on ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO HS 
2. Dabigatran Etexilate 75 mg PO BID 
3. Diltiazem Extended-Release 180 mg PO DAILY 
4. Fluticasone Propionate NASAL 2 SPRY NU QPM 
5. Lisinopril 40 mg PO DAILY 
6. Pantoprazole 40 mg PO Q24H 
7. Pravastatin 10 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Docusate Sodium 400 mg PO DAILY 
10. Multivitamins W/minerals 1 TAB PO DAILY 
11. Lidocaine 5% Patch 1 PTCH TD DAILY 
RLE pain 

 
Discharge Medications:
1. Amitriptyline 10 mg PO HS 
2. Aspirin 81 mg PO DAILY 
3. Dabigatran Etexilate 75 mg PO BID 
4. Fluticasone Propionate NASAL 2 SPRY NU QPM 
5. Lidocaine 5% Patch 1 PTCH TD DAILY 
RLE pain 
6. Lisinopril 40 mg PO DAILY 
7. Multivitamins W/minerals 1 TAB PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Pravastatin 10 mg PO DAILY 
10. Docusate Sodium 400 mg PO DAILY 
11. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
12. Outpatient Lab Work
Please draw Chem 7, Ca, Mg, Phos on ___ and fax to ___ 
___ MD at ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
Atrial Flutter with variable heart block (2:1 up to 8:1)

Secondary diganosis
Hyponatremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure participating in your care. You came to the 
Emergency Room feeling ill, but were not able to fully explain 
what was making you feel unwell. While in the Emergency Room, we 
found that your heart rate was low. We did an EKG (an electrical 
map of the heart) to better characterize this slow rhythm. The 
EKG was not markedly different from the ones you had previously. 
We monitored you and you had slow heart rates often while you 
were in the hospital. These episodes did not correlate to your 
symptoms.

We held one of your heart medicines, the Diltiazem, because this 
can block the conduction of impulses through your heart and 
contribute to this slow heart rate. 

At the same time, we found that your sodium is a little bit low. 
 This improved over the course of your stay.

Please STOP Diltiazem
Please START Amlodipine 5mg daily.  This is for your blood 
pressure.
 
Followup Instructions:
___